* Schematics Netlist *

.EXTERNAL INPUT A
.EXTERNAL INPUT C
.EXTERNAL INPUT B
.EXTERNAL OUTPUT F


** AutoGenerated Stimuli from Hierarchical ports **
U_AUTO_STM_0	STIM( 1, 0 ) $G_DPWR $G_DGND A IO_STM STIMULUS=A
U_AUTO_STM_1	STIM( 1, 0 ) $G_DPWR $G_DGND B IO_STM STIMULUS=B
U_AUTO_STM_2	STIM( 1, 0 ) $G_DPWR $G_DGND C IO_STM STIMULUS=C


V_VDD         $N_0001 0 5V
M_M5         F B $N_0002 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M6         $N_0002 C $N_0001 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M4         F A $N_0001 $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M1         F A $N_0003 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M2         $N_0003 B 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M3         $N_0003 C 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
