* Schematics Netlist *



V_V1         $N_0001 0 15
R_R1         $N_0001 $N_0002  100  
R_R3         $N_0002 $N_0003  100  
R_R2         $N_0002 $N_0003  220  
R_R4         0 $N_0004  220  
X_U2         $N_0003 $N_0004 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
