* Schematics Netlist *



M_M1         $N_0002 $N_0001 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
V_V5         $N_0001 0  
+PULSE 0V 5V 10n 2n 2n 40n 100n
V_VDD         $N_0003 0 5V
C_C1         0 $N_0002  0.1pF  
R_RD         $N_0002 $N_0003  90k  
