* Schematics Netlist *



M_M1         $N_0002 $N_0001 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
R_R3         $N_0002 $N_0003  1k  
V_VDD         $N_0003 0 10V
R_R2         $N_0001 $N_0003  6k  
R_R1         0 $N_0001  4k  
