* Schematics Netlist *

.EXTERNAL INPUT Sel


** AutoGenerated Stimuli from Hierarchical ports **
U_AUTO_STM_6	STIM( 1, 0 ) $G_DPWR $G_DGND Sel IO_STM STIMULUS=Sel


M_M6         $N_0003 $N_0001 $N_0002 $N_0004 MbreakP-X  
+ L=1u  
+ W=1u         
M_M5         $N_0001 Sel $N_0004 $N_0004 MbreakP-X  
+ L=1u  
+ W=1u         
M_M2         $N_0003 Sel $N_0002 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M4         F $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M1         $N_0001 Sel 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
M_M7         $N_0005 Sel $N_0002 $N_0004 MbreakP-X  
+ L=1u  
+ W=1u         
M_M3         $N_0005 $N_0001 $N_0002 0 MbreakN-X  
+ L=1u  
+ W=1u         
V_VDD         $N_0004 0 5V
M_M8         F $N_0002 $N_0004 $N_0004 MbreakP-X  
+ L=1u  
+ W=1u         
V_A         $N_0005 0 5V
V_B         $N_0003 0 0V
